US08110585B2
trans-N-{[2-(5-fluoro-2-methyl-2H-indazol-4-yl)cyclopropyl]methyl}propanamide
To a solution of trans-1-[2-(5-fluoro-2-methyl-2H-indazol-4-yl)cyclopropyl]methanamine (45.0 mg, 0.205 mmol) and triethylamine (34.3 μL, 0.246 mmol) in tetrahydrofuran (2 mL) was added propionic anhydride (28.9 μL, 0.226 mmol) under ice-cooling, and the mixture was stirred under ice-cooling for 5 min. The reaction solution was diluted with saturated aqueous sodium hydrogen carbonate solution. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (methanol/ethyl acetate=0/100→8/92) to give the title compound (53.2 mg, yield 94%).

reactant | trans-1-[2-(5-fluoro-2-methyl-2H-indazol-4-yl)cyclopropyl]methanamine | 0.205 mmol, 45.0 mg | FC1=C(C2=CN(N=C2C=C1)C)[C@H]1[C@@H](C1)CN | C12H14FN3
reactant | triethylamine | 0.246 mmol, 34.3 μL | C(C)N(CC)CC | C6H15N
reactant | propionic anhydride | 0.226 mmol, 28.9 μL | C(CC)(=O)OC(CC)=O | C6H10O3
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | trans-N-{[2-(5-fluoro-2-methyl-2H-indazol-4-yl)cyclopropyl]methyl}propanamide | 53.2 mg, yield 94% | FC1=C(C2=CN(N=C2C=C1)C)[C@H]1[C@@H](C1)CNC(CC)=O | C15H18FN3O
